US03953595
3-Phenacylthio-5-trifluoromethylbenzoic Acid
A mixture of 1.33 g. (6 m moles) of 3-mercapto-5-trifluoromethylbenzoic acid, 12 ml. of 1N sodium hydroxide solution and 930 mg. (6 m moles) of α-chloroacetophenone in 20 ml. of ethanol is allowed to stir at room temperature for 1 hour. The reaction mixture is diluted with water, extracted with ether and the resulting aqueous phase acidified with 12N hydrochloric acid. The light yellow oil which separates gradually crystallizes and is filtered, 1.8 g., m.p. 135°-150° C. A sample is sublimed at 165° C. and 0.05 mm pressure, m.p. 153°-155° C.

reactant | 3-mercapto-5-trifluoromethylbenzoic acid | SC=1C=C(C(=O)O)C=C(C1)C(F)(F)F | C8H5F3O2S
reactant | sodium hydroxide | 1N | [OH-].[Na+]
reactant | α-chloroacetophenone | ClCC(=O)C1=CC=CC=C1 | C8H7ClO
reactant | ethanol | C(C)O | C2H6O
solvent | water | O | H2O
product | 3-Phenacylthio-5-trifluoromethylbenzoic Acid | C(C(=O)C1=CC=CC=C1)SC=1C=C(C(=O)O)C=C(C1)C(F)(F)F | C16H11F3O3S
